US08071595B2
To a stirred solution of 5-(4-aminophenyl)-2,2-dimethyl-4-(4-(quinolin-2-ylmethoxy)phenyl)furan-3(2H)-one (80 mg, 0.18 mmol) in ACN: H2O (6 mL, 1:1) was added conc HCl (0.2 mL) at 0° C. under N2 atmosphere. The reaction mixture was stirred at 0° C. for 10 min. After being stirred for 5 min then added NaNO2 in water and stirred for 40 min at 0° C. The reaction mixture was stirred at 70° C. for 2 h. After completion of starting material (by TLC), reaction mass was diluted with water and extracted with EtOAc (2×25 mL). Combined organic layers were washed with water (2×5 mL), brine and dried over anhydrous Na2SO4. After filtration and evaporation, the crude material was purified by silica gel column chromatography to afford 2,2-dimethyl-5-phenyl-4-(4-(quinolin-2-ylmethoxy)phenyl)furan-3(2H)-one (18 mg, 23%), as an off white solid. 1H NMR (400 MHz, CDCl3): δ 8.45 (d, J=8.5 Hz, 1H), 8.10 (d, J=7.9 Hz, 1H), 7.86 (d, J=8.4 Hz, 1H), 7.75-7.62 (m, 3H), 7.52 (t, J=8.2 Hz, 1H), 7.45 (d, J=8.5 Hz, 1H), 7.32 (d, J=7.5 Hz, 2H), 7.21 (d, J=7.4 Hz, 2H), 7.03 (d, J=7.5 Hz, 2H), 5.42 (s, 2H), 1.51 (s, 6H). MS: [M+Na]: m/z=444.1, [M+H]: m/z=422.1. HPLC: 98.72% (RT-2.83 min), Column: Acquity BEH-C-18, 50×2.1 mm, 1.7 um. Mobile Phase: 0.025% TFA in Water (A), ACN (B), Flow rate: 0.5 ml/min (Gradient).

reactant | 5-(4-aminophenyl)-2,2-dimethyl-4-(4-(quinolin-2-ylmethoxy)phenyl)furan-3(2H)-one | 0.18 mmol, 80 mg | NC1=CC=C(C=C1)C1=C(C(C(O1)(C)C)=O)C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1 | C28H24N2O3
reactant | HCl | 0.2 mL | Cl | ClH
reactant | NaNO2 | N(=O)[O-].[Na+]
solvent | ACN | C(C)#N | C2H3N
solvent | water | O | H2O
solvent | H2O | 6 mL | O | H2O
product | 2,2-dimethyl-5-phenyl-4-(4-(quinolin-2-ylmethoxy)phenyl)furan-3(2H)-one | 18 mg, 23% | CC1(OC(=C(C1=O)C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1)C1=CC=CC=C1)C | C28H23NO3
